US08957104B2
A thick-walled glass vessel was charged with 1,2-dibromo-4-fluoro-3-iodobenzene (8.31 g, 21.88 mmol), Pd(PPh3)2Cl2 (0.768 g, 1.094 mmol), and CuI (0.292 g, 1.532 mmol) and sealed with a rubber septum. Anhyd THF (30 mL) and DIPA (30.8 mL, 219 mmol) were added via syringe and the mixture was degassed 10 min by sparging with N2 while immersed in an ultrasonic bath. Ethynyltrimethylsilane (3.40 mL, 24.07 mmol) was added via syringe and the septum was replaced with a PTFE bushing. The mixture was stirred in an oil bath at 40° C. After 40 h, the mixture was cooled, diluted with EtOAc and filtered through a pad of Celite. The filtrate was washed (satd NH4Cl×2, water, brine), dried over Na2SO4 and concentrated in vacuo. The residue was purified by low pressure liquid chromatography (silica gel, EtOAc/hexanes, gradient elution) affording ((2,3-dibromo-6-fluorophenyl)ethynyl)trimethylsilane (6.08 g, 17.37 mmol, 79% yield) as a yellow oil: 1H NMR (400 MHz, CDCl3) δ 7.53 (dd, J=8.9, 5.4 Hz, 1H), 6.95 (dd, J=8.9, 8.1 Hz, 1H), 0.29 (s, 9H); MS (GCMS EI) m/z 348 ([M]+, Br isotopes, 18%), 350 ([M]+, Br isotopes, 34%), 352 ([M]+, Br isotopes, 18%), 333 ([M-CH3]+, Br isotopes, 56%), 335 ([M-CH3]+, Br isotopes, 100%), 337 ([M-CH3]+, Br isotopes, 54%).

reactant | 1,2-dibromo-4-fluoro-3-iodobenzene | 21.88 mmol, 8.31 g | BrC1=C(C(=C(C=C1)F)I)Br | C6H2Br2FI
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | Ethynyltrimethylsilane | 24.07 mmol, 3.40 mL | C(#C)[Si](C)(C)C | C5H10Si
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 1.094 mmol, 0.768 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 1.532 mmol, 0.292 g | [Cu]I
product | ((2,3-dibromo-6-fluorophenyl)ethynyl)trimethylsilane | 17.37 mmol, 6.08 g, 79% yield | BrC1=C(C(=CC=C1Br)F)C#C[Si](C)(C)C | C11H11Br2FSi
